US07435837B2
Treatment of 2-allyl-6-cyclopentylphenol (6.97 g, 0.0344 mol) with 3-chloroperoxybenzoic acid (17.83 g, 0.1033 mol, 77%) and potassium carbonate (14.0 g, 0.1013 mol) generally according to the procedure described for Intermediate 9 afforded 4.1 g (54%) of (±)-(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methanol as a yellow oil. Rf=0.58 (silica, ethyl acetate:hexanes 3:7); Anal. calcd. for C14H18O2 C, 77.03; H, 8.31. Found C, 76.5; H, 8.44.

reactant | 2-allyl-6-cyclopentylphenol | 0.0344 mol, 6.97 g | C(C=C)C1=C(C(=CC=C1)C1CCCC1)O | C14H18O
reactant | 3-chloroperoxybenzoic acid | 0.1033 mol, 17.83 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 0.1013 mol, 14.0 g | C([O-])([O-])=O.[K+].[K+]
product | (±)-(7-cyclopentyl-2,3-dihydro-1-benzofuran-2-yl)methanol | 4.1 g, 54% | C1(CCCC1)C1=CC=CC=2CC(OC21)CO | C14H18O2
